US04427437
Preparation of 2-(3-chlorophenylthio)pyrimidine (16)
A solution of 3-chloroaniline (5.0 g) in 1.5 M hydrochloric acid (100 ml) was diazotised by the gradual addition of a solution of sodium nitrate (3.0 g) in water (6 ml) at 0° C. Sodium bicarbonate (7.5 g) was then added to the solution and the whole reaction mixture was added rapidly with stirring to a solution of 2-mercaptopyrimidine (4.5 g) in water (3 l). When the addition of the diazonium salt solution was completed, 10 ml of a 15% solution of sodium carbonate was added causing precipitation of a colourless solid. The solid was collected by filtration and allowed to stand overnight during which time it decomposed to an oil which was purified by chromatography (70 g silica, chloroform elution). The title compound was obtained as a red oil (2.5 g, 29%) and identified by its pmr spectrum.

reactant | 3-chloroaniline | 5.0 g | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | sodium nitrate | 3.0 g | [N+](=O)([O-])[O-].[Na+]
reactant | Sodium bicarbonate | 7.5 g | C([O-])(O)=O.[Na+]
reactant | 2-mercaptopyrimidine | 4.5 g | SC1=NC=CC=N1 | C4H4N2S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | hydrochloric acid | 1.5 M, 100 ml | Cl | ClH
solvent | water | 6 ml | O | H2O
solvent | water | 3 l | O | H2O
product | 2-(3-chlorophenylthio)pyrimidine | ClC=1C=C(C=CC1)SC1=NC=CC=N1 | C10H7ClN2S
